datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:9]([C:8](=[C:7]([H:13])[H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19])([H:3])[H:4],77.0693
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](#[C:9][C:10]=[C:11]([H:13])[H:14])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9]#[C:8][H:12])=[C:11]([H:13])[H:14],11.2968
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16])[H:4],43.7646
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])=[C:8]([C:9]([H:22])([H:23])[H:24])[H:21])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:10],54.6012
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([H:26])([H:27])[H:28]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:25]([H:26])([H:27])[H:28],24.6856
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[S:6]([C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])[H:15])[H:14]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([S:6][H:14])([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])[H:15],176.774
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])[H:16])[H:15])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]1([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])[H:11])[H:10],76.6927
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]1[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]1([H:9])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:6])([H:7])[H:8],149.787
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13][C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:13](=[C:12]([H:15])[H:16])[C:14]([H:17])([H:18])[H:19])[H:6],-2.7196
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[O:31][H:32]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[H:10][O:31][H:32],0.0
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([C:6]([H:9])([H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12],119.537
[O:3][S:4].[S:0]([H:1])[H:2]>>[H:1][O:3][S:4].[S:0][H:2],152.716
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[C:8](=[O:9])[H:10]>>[C-:8]#[O+:9].[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])([H:4])[H:10],0.0
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:24]([H:25])([H:26])[H:27])[H:14])([H:12])[H:13],17.1962
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20],91.3786
[N:0](=[C:1]=[O:2])[H:3].[N:4]([H:5])[H:6]>>[H:3][N:4]([H:5])[H:6].[N:0]=[C:1]=[O:2],37.405
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17][C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17](=[C:16]([H:19])[H:20])[C:18]([H:21])([H:22])[H:23],-22.5936
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16],-19.6648
